US07829580B2
(b) (E)-1-(t-Butoxycarbonyl)-4-{[1-(ethoxycarbonylmethyl)-1H-pyrazol-4-yl]methylidene}pyrrolidin-3-one
To a solution of 1-(t-butoxycarbonyl)pyrrolidin-3-one (6.8 g) in ethanol (200 ml) were added ethyl(4-formyl-1H-pyrazol-1-yl)acetate (8.0 g) and pyrrolidine (600 μl). The resulting mixture was stirred at 80° C. for 45 minutes, cooled to room temperature, and the solvent was evaporated in vacuo. The residue was purified by chromatography on silica gel using a mixture of hexane, ethyl acetate and dichloromethane (2:1:1) as the eluent to afford the title compound as a yellow amorphous solid (4.47 g, yield: 35%).

reactant | 1-(t-butoxycarbonyl)pyrrolidin-3-one | 6.8 g | C(C)(C)(C)OC(=O)N1CC(CC1)=O | C9H15NO3
reactant | ethyl(4-formyl-1H-pyrazol-1-yl)acetate | 8.0 g | C(C)OC(CN1N=CC(=C1)C=O)=O | C8H10N2O3
reactant | pyrrolidine | 600 μl | N1CCCC1 | C4H9N
solvent | ethanol | 200 ml | C(C)O | C2H6O
product | (E)-1-(t-Butoxycarbonyl)-4-{[1-(ethoxycarbonylmethyl)-1H-pyrazol-4-yl]methylidene}pyrrolidin-3-one | 4.47 g, yield: 35% | C(C)(C)(C)OC(=O)N1CC(/C(/C1)=C/C=1C=NN(C1)CC(=O)OCC)=O | C17H23N3O5
